US06458909B1
a) Synthesis of 3-(3,7-Dimethyloctyloxy)bromobenzene
450 ml of ethanol were placed in the reaction vessel and admixed with Nal (10.5 g; 70 mmol) and KOH (67.3 g; 1.2 mol). A temperature rise from 25 to 40° C. was observed after addition of the KOH. After cooling to room temperature, 3-bromophenol (175.5 g; 1 mol) was added. The white suspension became beige during this addition. 3,7-dimethyloctyl chloride (186.32 g; 212.94 ml; 1.05 mol) was added over a period of 3 minutes by means of a dropping funnel. The mixture was stirred further for 2 hours at RT and subsequently for 96 hours at an internal temperature of 80° C. Ethanol was distilled off. The residue was taken up in ethyl acetate and the precipitate was separated off by filtration. The organic phase was extracted three times with 10% strength by weight aqueous NaOH solution, washed once with H2O, three times with H2O which had been acidified with CO2 and again with H2O. After drying over MgSO4, the solvent was again taken off on a rotary evaporator and the crude product was purified by fractional vacuum distillation.

reactant | Nal | 70 mmol, 10.5 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | KOH | 1.2 mol, 67.3 g | [OH-].[K+]
reactant | 3-bromophenol | 1 mol, 175.5 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 3,7-dimethyloctyl chloride | 1.05 mol, 212.94 ml, 186.32 g | CC(CCCl)CCCC(C)C | C10H21Cl
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 3-(3,7-Dimethyloctyloxy)bromobenzene | CC(CCOC=1C=C(C=CC1)Br)CCCC(C)C | C16H25BrO
